US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-methylbenzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-methylbenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 163 mg of the title compound (80%) as a yellow solid in 99.99% purity by HPLC (Rt: 5.7, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-methylbenzohydrazide | CC1=CC=C(C(=O)NN)C=C1 | C8H10N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-methylbenzohydrazide | 163 mg, 80% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=C(C=C1)C)=O | C16H12IN3O2
